US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.2 g) was reacted with 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole similar to as described in Example 4 and triturated from water followed by methanol to give 107 mg of 10-bromo-9-fluoro-3-(1H-pyrazol-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 3.3 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-(1H-pyrazol-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 396 (M)+.

reactant | 10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.2 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C1=NNC=C1)C | C9H15BN2O2
product | 10-bromo-9-fluoro-3-(1H-pyrazol-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 107 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NNC=C3)C1)F | C15H11BrFN5O2
